US04254116
5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[4-(morpholino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine and γ-morpholinobutyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C=2C1=CC=NC2)C | C23H31NO2
reactant | γ-morpholinobutyric acid hydrochloride | Cl.O1CCN(CC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(3-methyl-2-octyl)-10-[4-(morpholino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC(CCCN2CCOCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C31H44N2O4.ClH/c1-6-7-8-10-22(2)23(3)24-19-27(36-29(34)11-9-14-33-15-17-35-18-16-33)30-25-21-32-13-12-26(25)31(4,5)37-28(30)20-24;/h12-13,19-23H,6-11,14-18H2,1-5H3;1H
